US07538931B2
Hri=N,N-Bis(pyridin-2-ylmethyl)pentan-1-amine
To 15 ml of N,N-dimethylformamide, 0.85 g potassium hydroxide, 1.0 g di(2-picolyl)amine, and 0.99 g 1-iodopentane were successively added. The mixture was stirred under nitrogen at 35 C for 2.5 hours before an additional 0.99 g 1-iodopentane were added. The mixture was then stirred for 16 hrs at 35 C under nitrogen. The reaction was quenched with 90 ml of water and extracted with two 50 ml portions of ethyl acetate. The combined organic layers were washed with two 25 ml portions of water, dried over anhydrous magnesium sulfate, and filtered. Following solvent removal, the orange oil obtained was purified by silica gel chromatography using a methanol/ethyl acetate mixed solvent system that was ramped from 0% to 10% methanol by volume during the course of the elution. An orange oil (0.98 g) was obtained.

reactant | potassium hydroxide | 0.85 g | [OH-].[K+]
reactant | di(2-picolyl)amine | 1.0 g | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
reactant | 1-iodopentane | 0.99 g | ICCCCC | C5H11I
reactant | 1-iodopentane | 0.99 g | ICCCCC | C5H11I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N,N-Bis(pyridin-2-ylmethyl)pentan-1-amine | 0.98 g | N1=C(C=CC=C1)CN(CCCCC)CC1=NC=CC=C1 | C17H23N3
